US07846929B2
2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-amine (40 mg) was reacted with 41 μL of tert-butylacetyl chloride via General Procedure G to give N-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-3,3-dimethylbutanamide.

reactant | 2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-amine | 40 mg | ClC=1N=C(C2=C(N1)C=C(S2)N)N2CCOCC2 | C10H11ClN4OS
reactant | tert-butylacetyl chloride | 41 μL | C(C)(C)(C)CC(=O)Cl | C6H11ClO
product | N-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-3,3-dimethylbutanamide | ClC=1N=C(C2=C(N1)C=C(S2)NC(CC(C)(C)C)=O)N2CCOCC2 | C16H21ClN4O2S
